US09029536B2
G) 9-[4-(1H-Benzimidazol-2-yloxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine
To a solution of 9-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzo[d]imidazol-2-yloxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine (199 mg) in EtOH (2 mL) was added 6 M HCl aqueous solution (2 mL) and the mixture was heated at 70° C. for 2 h. The mixture was neutralized with saturated NaHCO3 aqueous solution and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was collected by filtration and washed with AcOEt to give the title compound (135 mg).

reactant | 9-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzo[d]imidazol-2-yloxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine | 199 mg | C[Si](CCOCN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C=2C1=C(N3CCCC23)C=CC=N1)(C)C | C29H32N4O2Si
reactant | HCl | 6 M, 2 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 9-[4-(1H-Benzimidazol-2-yloxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine | 135 mg | N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C=2C1=C(N3CCCC23)C=CC=N1 | C23H18N4O
